US06469181B1
A mixture of dimethyl 4-chloro-2-nitrophenylmalonate (30 g, 0.10 mol), 5% Pt/C (0.15 g), water (3 mL), and acetic acid (95 mL) were charged to an autoclave reactor. The sealed autoclave was flushed with nitrogen, then charged with hydrogen (75 psig). The reaction mixture was mixed with the hydrogen, kept at constant pressure, by rapid stirring. Hydrogen was consumed over 1 hour at 30-40° C. The reaction mixture was then heated to 60° C. for 10 minutes to complete the hydrogenation with in situ cylization forming methyl N-hydroxy-6-chloro-2-oxindole-3-carboxylate. The hydrogen was then vented and replaced with nitrogen. The mixture was then heated at 105° C. for 1 hour to effect the in situ hydrolysis and decarboxylation of N-hydroxy-6-chloro-2-oxindole-3-carboxylate to N-hydroxy-6-chloro-2-oxindole. The reaction mixture was cooled to 80° C. and emptied under nitrogen pressure from the reactor as a slurry. This slurry was stirred under nitrogen until it cooled to 45° C. Filtration afforded a crude product contaminated with the catalyst. This solid was dissolved in hot tetrahydrofuran (450 mL) and filtered through a Celite pad with vacuum. Concentration to 100 mL followed by the addition of hexane (100 mL) afforded a slurry which was filtered. The solid was dried in vacuo to yield 9.85 g of N-hydroxy-6-chloro-2-oxindole (1H-NMR). Isolated yield: 54% on dimethyl 4-chloro-2-nitrophenylmalonate.

reactant | dimethyl 4-chloro-2-nitrophenylmalonate | 0.10 mol, 30 g | ClC1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C11H10ClNO6
reactant | water | 3 mL | O | H2O
catalyst | Pt/C | 0.15 g | [Pt] | Pt
solvent | acetic acid | 95 mL | C(C)(=O)O | C2H4O2
product | methyl N-hydroxy-6-chloro-2-oxindole-3-carboxylate | ON1C(C(C2=CC=C(C=C12)Cl)C(=O)OC)=O | C10H8ClNO4
